US06538159B2
To a mixture of (S)-2-ethanesulfonylamino-3-methyl-butyric acid (0.7 g), 2-{4-[3-(4-fluoro-phenyl)-propoxy]-3-methoxy-phenyl}-ethylamine (1.0 g) and diethyl-isopropylamine (1.2 ml) in dimethylformamide (30 ml) is added benzotriazol-1-yloxy-tris(dimethylamino)phosphonium hexafluorophosphate (1.5 g) in one portion. The reaction mixture is stirred for 2 hours at room temperature. Water (200 ml) is then added. It is extracted with ethyl acetate (2×200 ml). The organic layers are washed with brine (2×200 ml), dried (MgSO4) and evaporated. The residue is purified by flash column chromatography on silica gel (ethyl acetate/hexane 2:1) and recrystallisation (ethyl acetate/hexane). Pure (S)-2-ethanesulfonyl-amino-N-(2-{4-[3-(4-fluoro-phenyl)-propoxyl]-3-methoxy-phenyl}-ethyl)-3-methyl-butyramide is obtained, m.p. 107-111° C.

reactant | (S)-2-ethanesulfonylamino-3-methyl-butyric acid | 0.7 g | C(C)S(=O)(=O)N[C@H](C(=O)O)C(C)C | C7H15NO4S
reactant | 2-{4-[3-(4-fluoro-phenyl)-propoxy]-3-methoxy-phenyl}-ethylamine | 1.0 g | FC1=CC=C(C=C1)CCCOC1=C(C=C(C=C1)CCN)OC | C18H22FNO2
reactant | diethyl-isopropylamine | 1.2 ml | C(C)N(C(C)C)CC | C7H17N
reactant | benzotriazol-1-yloxy-tris(dimethylamino)phosphonium hexafluorophosphate | 1.5 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | Water | 200 ml | O | H2O
product | (S)-2-ethanesulfonyl-amino-N-(2-{4-[3-(4-fluoro-phenyl)-propoxyl]-3-methoxy-phenyl}-ethyl)-3-methyl-butyramide | C(C)S(=O)(=O)[C@](C(=O)NCCC1=CC(=C(C=C1)OCCCC1=CC=C(C=C1)F)OC)(C(C)C)N | C25H35FN2O5S
